* C:\Users\tydav\gitLocals\ECE2260\Lab9\ltspice_resources\highpass.asc
V1 N001 0 AC 1
C1 v0 N001 5µ
L1 v0 0 1m
R1 v0 0 8
.ac dec 20 35 35000
.backanno
.end
