* C:\Users\tydav\gitLocals\ECE2260\Lab9\ltspice_resources\lowpass.asc
V1 N001 0 AC 1
L1 N001 v0 1m
C1 v0 0 50µ
R1 v0 0 8
.ac dec 20 35 35000
.backanno
.end
